US08227601B2
1-(4-(5-benzyl-2-chloro-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylphenyl)ethanone
To a stirred solution of NaH (31 mg, 0.78 mmol) in dry NMP (2 mL) was added 1-(4-hydroxy-3,5-dimethylphenyl)ethanone (127 mg, 0.78 mmol) and stirred at room temperature for 30 min under argon. The reaction mixture was added to a solution of 5-benzyl-2,4-dichloro-5H-pyrrolo[3,2-d]pyrimidine (216 mg, 0.78 mmol) in dry NMP (2.4 mL) and heated at 160° C. for 16 h. After completion of the reaction, the resulting mixture was diluted with water and washed with EtOAc. The combined organic layers were washed with water, 2% NaOH, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography, eluting with hexanes/ethyl acetate (4:1-2:1), to give the product as a light yellow solid (111 mg, 35%).

reactant | NaH | 0.78 mmol, 31 mg | [H-].[Na+]
reactant | 1-(4-hydroxy-3,5-dimethylphenyl)ethanone | 0.78 mmol, 127 mg | OC1=C(C=C(C=C1C)C(C)=O)C | C10H12O2
reactant | 5-benzyl-2,4-dichloro-5H-pyrrolo[3,2-d]pyrimidine | 0.78 mmol, 216 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)Cl)Cl | C13H9Cl2N3
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 2.4 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 1-(4-(5-benzyl-2-chloro-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylphenyl)ethanone | 111 mg, 35% | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)OC2=C(C=C(C=C2C)C(C)=O)C)Cl | C23H20ClN3O2
